data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8277,"CC(C)[O-].CCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)CC1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7076,"CC1(C)C[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1602,"CCC(=O)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4185,"C1=CC=C(C=C[CH:1]=[O:2])C=C1.C1=CC=C(C[NH2:3])C=C1.CO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2326,"CC(C)[CH:1](C)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5721,"CC(C)(C)[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8657,"CC(C)(C)[O-:1].COC1=CC(I)=C(CC[N+](C)=C[O][AlH2:2])C=C1OC|(1, 2)"
train,pmechdb_split_0,0,9551,"OC(=C[C:1](Cl)=[O:2])CC1=CC=CC=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4335,"C1=CC=CC=C1.C1=CC=[N:1]C=C1.CC(=O)CCC(C)(O)[NH+:2](C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2)[H:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10335,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2C[CH:3]=[CH:4]C2C)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7162,"CC(Br)[C:1]([C:2](Br)(Br)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9020,"CCCC=[O+:1][Na:2].[BH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,1214,"CC=C[CH:1]1C(C)[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10214,"C[S:1]([O-])=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5084,"C=CC[OH:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10331,"C1CCC(CC[N+:1]23CCCC2[CH2:2]3)CC1.CCNC(=O)CCC[NH:3]CC1CCCCC1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3207,"CC=CC[O-:1].O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5422,"CC(C)CC(CC1CCCCC1)[O+]1CCOCC1.CC(C)CC(CC1CCCCC1)[OH+:1][H:2].O=S(Cl)[O-:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3193,"CC[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3476,"C[N+:1](C)=[CH:2][S-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2608,"CCOCC.C[C:1](C1=CC(C#N)=CC=C1)=[O+:2][B-](F)(F)F.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8387,"CC(C)O.CC(C)[O][Al-:1]1([O]C(C)C)[O]C2CC3(OCCO3)C3(C)CC4OC(C)(C)OC4CC3C2=[O+:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,2131,"C1=CC2=C(C=C1)C(=[O:1])CN2.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6859,"C=CC(C)=O.CO[C:1]([C:2]1=[CH:3][CH:4]([H:5])CCCC1=O)=[O:6].C[O-:7].[H][H].[Na+]|(7, 5);((5, 4), 3);((3, 2), 1);((1, 6), 6)"
train,pmechdb_split_0,0,3845,"CC(=O)OCC1OC(C=[C+:1][CH2:2][Si-:3](C)(C)(C)[O+]=C(C)O[Si](C)(C)C)C=CC1OC(C)=O.O=S(=O)([O-])C(F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,9140,"CC[N:1](CC)CC.COC(=O)C1=CN(C)C2=C(C1=O)C(Cl)([N+:2]1([H:3])CCCC1)C=C([O-])N2C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8292,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O-])NC3=CC=C21.CCOC(=O)NN(C(=O)OCC)[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])C1=CC=C(CC[OH:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,3112,"C1CCC([P+:1](C2CCCCC2)(C2CCCCC2)[O:2][H:3])CC1.ClC[N+]12CC[NH+](CC1)CC2.F[B-](F)(F)F.[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3746,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3823,"C=C(C)C1CCC2(C([O-])(Cl)[N+:1]3([H:2])CCN(C4=CC=C(F)C=C4)CC3)CCC3(C)C(CCC4C5(C)CCC(=O)C(C)(C)C5CCC43C)C12.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9211,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)C(C)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1819,"CCNC[CH:1]=[C:2](OC)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3051,"CCO.CCO[C:1](C(O)C1=CC=CC=C1)([OH2+:2])[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6218,"C1CCC(N=[C:1]=[NH+:2]C2CCCCC2)CC1.C=CCC(O)CC1CC(O[Si](C)(C)C(C)(C)C)CC(CC2=C(C(=O)[O-:3])C(OC)=CC=C2)O1.CN(C)C1=CC=[NH+]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2070,"C[NH:1]C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,2881,"CNC(=O)C1CCC[N+:1]1(C([O-])(ON1C2=C(C=CC=C2)N=[N:2]1)C(NC(=O)OC)C(C)C)[H:3]|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,6999,"CO[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,1451,"COC(CC1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8620,"CC(=O)O.COC1=C2C(=CC=C1)O[C:1]([O-:2])=[C:3](NC(=O)C1=CC=CC=C1)[CH:4]2[O:5]C(C)=O.O=C(O)[O][K].O=C([O-])[O][K].[K+]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8471,"C[CH:1]([O:2]C)[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4647,"C1=CC2=C(C=C1)[C:1](=[OH+:2])[CH:3]([H:4])N2.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2662,"CCC1(C)C[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7436,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)[C:1]2([OH2+:2])C1=NC1=C(C=CC(C(=O)C3=CC=CC=C3)=C1)[NH:3]2.CCO.NC1=C(N)C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1113,"[Li:1][CH3:2].[Li][P+:3](C)(C)Cl|((1, 2), 3)"
train,pmechdb_split_0,0,8831,"C=CC(C)=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
